US07601850B2
Preparation of 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonic acid isobutyryl-amide
Using a procedure analogous to Example 163, 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonic acid amide and 2-methylpropionic acid give the title compound (56%).

reactant | 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonic acid amide | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(S1)S(=O)(=O)N)C)C)=O)(C)C | C23H33NO4S2
reactant | 2-methylpropionic acid | CC(C(=O)O)C | C4H8O2
product | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonic acid isobutyryl-amide | 56% | C(C(C)C)(=O)NS(=O)(=O)C=1SC(=CC1C)C(CC)(CC)C1=CC(=C(C=C1)OCC(C(C)(C)C)=O)C | C27H39NO5S2
